US09302996B2
In N,N-dimethylformamide (24 mL) was dissolved 5-bromo-3-chloropyridine-2-carboxylic acid (2.36 g), 1-hydroxybenzotriazole (2.2 g) and 3-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (2.87 g), N,O-dimethylhydroxylamine hydrochloride (1.27 g) and triethylamine (1.95 mL) was added to the solution, and the resulting mixture was stirred at room temperature for 20 hours. Water was added to the obtained residue, extracted with ethyl acetate, and the organic layer was washed with water and then with a saturated brine. After drying the mixture over anhydrous magnesium sulfate, the mixture was concentrated under reduced pressure to obtain 5-bromo-3-chloro-N-methoxy-N-methylpyridine-2-carboxamide (2.67 g).

reactant | 5-bromo-3-chloropyridine-2-carboxylic acid | 2.36 g | BrC=1C=C(C(=NC1)C(=O)O)Cl | C6H3BrClNO2
reactant | 1-hydroxybenzotriazole | 2.2 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,O-dimethylhydroxylamine hydrochloride | 1.27 g | Cl.CNOC
reactant | triethylamine | 1.95 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 24 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 5-bromo-3-chloro-N-methoxy-N-methylpyridine-2-carboxamide | 2.67 g | BrC=1C=C(C(=NC1)C(=O)N(C)OC)Cl | C8H8BrClN2O2
